US06610694B1
Production of 6-[3-[4-(Diphenylmethyl)-1-piperazinyl]propoxy][1,2,4]triazolo[4,3-b]pyridazine
0.311 g of 4-(diphenylmethyl)-1-piperazinepropanol was dissolved in 5 ml of N,N-dimethylformamide; 0.048 g of 60% oily sodium hydride was added; the reaction mixture was stirred in an oil bath (60° C.) for 30 minutes. After cooling, 0.232 g of 6-chloro[1,2,4]triazolo[4,3-b]pyridazine was added; the reaction mixture was stirred in an oil bath. (bath temperature 60° C.) for 40 minutes. After cooling, ice water was added; the reaction mixture was extracted with ethyl acetate; the extract was washed with saline and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (90:10:1). The desired fraction was collected and concentrated; the crystal obtained was filtered, washed with ethyl ether, and dried, to yield 0.339 g of the title compound.

reactant | 4-(diphenylmethyl)-1-piperazinepropanol | 0.311 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCO)C1=CC=CC=C1 | C20H26N2O
reactant | sodium hydride | 0.048 g | [H-].[Na+]
reactant | 6-chloro[1,2,4]triazolo[4,3-b]pyridazine | 0.232 g | ClC=1C=CC=2N(N1)C=NN2 | C5H3ClN4
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-[3-[4-(Diphenylmethyl)-1-piperazinyl]propoxy][1,2,4]triazolo[4,3-b]pyridazine | 0.339 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCOC=1C=CC=2N(N1)C=NN2)C2=CC=CC=C2 | C25H28N6O
